US08039487B2
A suspension of ammonium chloride (3.44 g, 64 mmol) in N,N-dimethylacetamide (150 mL) under argon was treated with diisopropylethylamine (13.44 g, 17.7 mL, 104 mmol). A solution of (R)-(+)-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester (5.10 g, 22 mmol) was added, followed by TBTU (10.11 g, 31 mmol). The mixture was stirred at room temperature for 1.5 h, then diluted with ethyl acetate (850 mL) and washed several times with water (5*50 mL) and finally with saturated sodium chloride. The organic phase was dried over sodium sulphate and evaporated. The resulting oil was purified by flash chromatography (heptane/ethyl acetate gradient) to yield (R)-2-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester (4.54 g, 89%) as a white solid, MS (ISP): 229.0 (M+H)+..

reactant | ammonium chloride | 64 mmol, 3.44 g | [Cl-].[NH4+]
reactant | diisopropylethylamine | 104 mmol, 17.7 mL, 13.44 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-(+)-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester | 22 mmol, 5.10 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(=O)O | C11H19NO4
reactant | TBTU | 31 mmol, 10.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | N,N-dimethylacetamide | 150 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 850 mL | C(C)(=O)OCC | C4H8O2
product | (R)-2-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 4.54 g, 89% | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(N)=O | C11H20N2O3
